US03947456
At room temperature with stirring, 7.12 g. of rac.-4-chloro-α-{[(3,4-dimethoxybenzyl)amino]methyl}benzyl alcohol hydrochloride are introduced into 100 ml. of a mixture of equal parts by volume of conc. sulfuric acid and water and heated of 80° for 30 minutes. After rendering alkaline, extraction of the base with methylene chloride, acidification with ethanolic hydrogen chloride and recrystallization from ethanol-ether there is obtained rac.-4-(4-chlorphenyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride of m.p. 186°-187°. The free base displays a m.p. of 118°-119° after recrystallization from ether.

reactant | rac.-4-chloro-α-{[(3,4-dimethoxybenzyl)amino]methyl}benzyl alcohol hydrochloride | Cl.ClC1=CC=C(C(CNCC2=CC(=C(C=C2)OC)OC)O)C=C1
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | rac.-4-(4-chlorphenyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)C1CNCC2=CC(=C(C=C12)OC)OC | InChI=1S/C17H18ClNO2.ClH/c1-20-16-7-12-9-19-10-15(14(12)8-17(16)21-2)11-3-5-13(18)6-4-11;/h3-8,15,19H,9-10H2,1-2H3;1H
